US08138333B2
tert-butyl 1,3,4,6-tetrahydro-5H-azepino[5,4,3-cd]indole-5-carboxylate
The pure 1:1 mixture of 1,3,4,5-Tetrahydro-6H-azepino[5,4,3-cd]indole and 2,2a,3,4,5,6-hexahydro-1H-azepino[5,4,3-cd]indole, Intermediate 11 (172 mg, 1 mmol) was dissolved in DCM (10 mL) and added di-tert-butyl dicarbonate (436 mg, 2 mmol). The reaction mixture was stirred at room temperature over night. Solvent was removed and the residue was purified by chromatography (SiO2, ethyl acetate:cyclohexane 1:5). The expected product tert-butyl 1,3,4,6-tetrahydro-5H-azepino[5,4,3-cd]indole-5-carboxylate was isolated from crude mixture of products and was pure enough for the next step synthesis.

reactant | 1,3,4,5-Tetrahydro-6H-azepino[5,4,3-cd]indole | N1C=C2C=3C(=CC=CC13)CNCC2 | C11H12N2
reactant | 2,2a,3,4,5,6-hexahydro-1H-azepino[5,4,3-cd]indole | N1CC2C=3C(=CC=CC13)CNCC2 | C11H14N2
reactant | di-tert-butyl dicarbonate | 2 mmol, 436 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 1,3,4,6-tetrahydro-5H-azepino[5,4,3-cd]indole-5-carboxylate | N1C=C2C=3C(=CC=CC13)CN(CC2)C(=O)OC(C)(C)C | C16H20N2O2
